US07655643B2
tert-Butyl [(4S)-4-amino-6-hydroxyhexyl]carbamate
620 mg (1.69 mmol) of benzyl [(1S)-4-[(tert-butoxycarbonyl) -amino]-1-(2-hydroxyethyl)butyl]-carbamate (Example Z2) are dissolved in 60 ml of ethanol. 100 mg of palladium on activated carbon (10%) are added thereto, and the mixture is hydrogenated under atmospheric pressure at RT for 15 h. The reaction mixture is filtered through prewashed kieselguhr, washed with ethanol, and the filtrate is concentrated on a rotary evaporator. The product is reacted without further purification.

reactant | benzyl [(1S)-4-[(tert-butoxycarbonyl) -amino]-1-(2-hydroxyethyl)butyl]-carbamate | 1.69 mmol, 620 mg | C(C)(C)(C)OC(=O)NCCC[C@@H](CCO)NC(OCC1=CC=CC=C1)=O | C19H30N2O5
solvent | ethanol | 60 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
product | tert-Butyl [(4S)-4-amino-6-hydroxyhexyl]carbamate | N[C@@H](CCCNC(OC(C)(C)C)=O)CCO | C11H24N2O3
